US08937176B2
6.01.01 2-bromo-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanon
20.2 g bromacetylbromide was dropped to 16.5 g 1-pyrimidin-2-yl-piperazin and 10.2 g triethylamine in 250 mL THF. The reaction mixture was stirred overnight at RT and evaporated. The residue was extracted with DCM and water. The organic layer was evaporated and the residue was crystallized with petrolether and then purified by chromatography on silica gel (DCM/MeOH:95/5) to yield 8.9 g of the desired compound.

reactant | bromacetylbromide | 20.2 g | BrCC(=O)Br | C2H2Br2O
reactant | 1-pyrimidin-2-yl-piperazin | 16.5 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | triethylamine | 10.2 g | C(C)N(CC)CC | C6H15N
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 2-bromo-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanon | 8.9 g | BrCC(=O)N1CCN(CC1)C1=NC=CC=N1 | C10H13BrN4O
